US06211241B1
(a) 3, 4-Dihydro-2H-quinoline-1-carboxylic acid 4-nitrophenyl ester
To a solution of tetrahydroisoquinoline (3.99 g, 30 mmol) in triethyl amine(6 g, 60 mmol) and dichloromethane(150 mL) cooled in ice bath was added p-nitrophenyl chloroformate (6.06 g, 30 mmol) drop wise over a period of 1 h. The reaction mixture was srirred at room temperature for 3 h and then washed with water (3×100 mL), dried over sodium sulfate and concentrated to afford an oil which was triturated with ether:hexane to afford the titled compound as yellow solid (5.9 g, 65%).

reactant | tetrahydroisoquinoline | 30 mmol, 3.99 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | triethyl amine | 60 mmol, 6 g | C(C)N(CC)CC | C6H15N
reactant | p-nitrophenyl chloroformate | 30 mmol, 6.06 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3, 4-Dihydro-2H-quinoline-1-carboxylic acid 4-nitrophenyl ester | 5.9 g, 65% | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCCC2=CC=CC=C12 | C16H14N2O4
